US09447044B2
Step A: 2-(4-benzyloxy-3,5-difluoro-phenyl)-cyclopropanecarbonyl chloride
After 2-(4-benzyloxy-3,5-difluoro-phenyl)-cyclopropanecarboxylic acid (75 mg, 0.246 mmol) was dissolved in anhydrous MC (5 ml), SOCl2 (0.58 g, 4.92 mmol) was added thereto, and the mixture was stirred at room temperature for 18 hours. After the termination of the reaction, the reactant was concentrated under reduced pressure to obtain the title compound, which was used in the next step without a separate purification process.

reactant | 2-(4-benzyloxy-3,5-difluoro-phenyl)-cyclopropanecarboxylic acid | 0.246 mmol, 75 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)C1C(C1)C(=O)O)F | C17H14F2O3
reactant | SOCl2 | 4.92 mmol, 0.58 g | O=S(Cl)Cl | Cl2OS
product | 2-(4-benzyloxy-3,5-difluoro-phenyl)-cyclopropanecarbonyl chloride | C(C1=CC=CC=C1)OC1=C(C=C(C=C1F)C1C(C1)C(=O)Cl)F | C17H13ClF2O2
